US08378104B2
Step G: 7-bromo-benzo[d]isothiazol-5-ylamine
A mixture of 7-bromo-5-nitro-benzo[d]isothiazole (1.0 g, 3.9 mmol) and iron powder (1.0 g, 19 mmol) in ethanol (40 mL) was heated to reflux with vigorous stirring. An aqueous 0.1 N hydrochloric acid (10 mL, 1 mmol) solution was added and the reaction continued until TLC showed no starting material. The reaction mixture was cooled to RT and filtered. The filtrate was concentrated and aqueous sodium carbonate was added to the residue until it became basic. This mixture was filtered through Celite, washing with ethyl acetate. The organic layer was separated, washed with water, dried over anhydrous sodium sulfate and concentrated to give 500 mg (56%) of the title compound. 1H NMR (300 MHz, CDCl3): δ 8.8 (s, 1H), 7.2 (s, 1H), 7.1 (s, 1H), 3.82 (br. s, 2H).

reactant | 7-bromo-5-nitro-benzo[d]isothiazole | 3.9 mmol, 1.0 g | BrC1=CC(=CC=2C=NSC21)[N+](=O)[O-] | C7H3BrN2O2S
reactant | hydrochloric acid | 1 mmol, 0.1 N, 10 mL | Cl | ClH
solvent | ethanol | 40 mL | C(C)O | C2H6O
catalyst | iron | 19 mmol, 1.0 g | [Fe] | Fe
product | 7-bromo-benzo[d]isothiazol-5-ylamine | 500 mg, 56% | BrC1=CC(=CC=2C=NSC21)N | C7H5BrN2S
